US07271262B2
247D. 5-(3-Amino-phenylsulfanyl)-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine
To a solution of [3-(4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-ylsulfanyl)-phenyl]-carbamic acid tert-butyl ester (108 mg, 0.25 mmole) in a mixture of MeOH and Methylene Chloride (4 mL/2 mL) was bubbled through HCl gas for 20 minutes. The resulting solution was stirred for 20 minutes at room temperature. Then the reaction mixture was extracted with EtOAc (50 mL) and saturated sodium bicarbonate solution (50 mL). The organic layer was washed with brine, dried over sodium sulfate and concentrated. The title compound was obtained as a yellow solid (79 mg, 96%). MS: 326.2 (MH+); HPLC Rf: 5.332 min.; HPLC purity: 90%.

reactant | [3-(4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-ylsulfanyl)-phenyl]-carbamic acid tert-butyl ester | 0.25 mmole, 108 mg | C(C)(C)(C)OC(NC1=CC(=CC=C1)SC1=CN(C=2N=CN=C(C21)N)C2CCCC2)=O | C22H27N5O2S
solvent | MeOH | CO | CH4O
solvent | Methylene Chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | 5-(3-Amino-phenylsulfanyl)-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | NC=1C=C(C=CC1)SC1=CN(C=2N=CN=C(C21)N)C2CCCC2 | C17H19N5S
